US07947851B2
Step b) Formation of 6-[(hexylamino)methyl]-2,2-dimethyl-4H-1,3-benzodioxin-4-one
To a solution of 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carbaldehyde (510 mg, 2.47 mmol) in anhydrous DCE (20 mL) was added n-hexylamine (392 μL, 2.97 mmol), acetic acid (212 μL) and sodium triacetoxyborohydride (786 mg, 3.71 mmol) and the resulting mixture was stirred at rt for 3 hrs. The reaction mixture was diluted with DCM and washed with a saturated aqueous solution of NaHCO3 and brine. The organic layer was dried over MgSO4 and the solvents were removed under reduced pressure. Purification by flash chromatography on silicagel (EtOAc/c-Hex (20/80)) gave 627 mg (87%) of the title compound. HPLC, Rt: 2.70 min purity: 86.4% ). 1H NMR (CDCl3) δ: 0.85 (t, J=6.8 Hz, 3H), 1.28 (m, 6H), 1.48 (m, 2H), 1.70 (s, 6H), 2.41 (m, 1H), 2.58 (t, J=7.3 Hz, 2H), 3.74 (s, 2H), 6.90 (d, J=8.5 Hz, 1H), 7.53 (dd, J=8.5, 2.3 Hz, 1H), 7.86 (d, J=2.1 Hz, 1H).

reactant | 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carbaldehyde | 2.47 mmol, 510 mg | CC1(OC(C2=C(O1)C=CC(=C2)C=O)=O)C | C11H10O4
reactant | n-hexylamine | 2.97 mmol, 392 μL | C(CCCCC)N | C6H15N
reactant | acetic acid | 212 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.71 mmol, 786 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-[(hexylamino)methyl]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 627 mg, 87% | C(CCCCC)NCC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C17H25NO3
